US06090837
PREPARATION D: 4-Cyano-N-(4-hydroxybutyl)benzamide
100 mmol (9.2 ml) of 4-aminobutanol are slowly added, at a temperature of 5° C., to 100 mmol (16.56 g) of 4-cyanobenzoyl chloride in 400 ml of dichloromethane. While maintaining the temperature at 5° C., 100 mmol (13.9 ml) of triethylamine are added. The reaction mixture is stirred for 15 hours at room temperature before being hydrolysed. The organic phase is then decanted off and washed with a 1N hydrochloric acid solution. After evaporating off the solvent, the residue obtained is purified by chromatography on silica gel using a 97/3 dichloromethane/methanol mixture as eluant to yield the expected product.

reactant | 4-aminobutanol | 100 mmol, 9.2 ml | NCCCCO | C4H11NO
reactant | 4-cyanobenzoyl chloride | 100 mmol, 16.56 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | triethylamine | 100 mmol, 13.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4-Cyano-N-(4-hydroxybutyl)benzamide | C(#N)C1=CC=C(C(=O)NCCCCO)C=C1 | C12H14N2O2
